US07402581B2
2-(4-Fluorophenyl)pent-4-enoic acid (Bioorg. Med. Chem. Lett. 2000, 1893; 4.20 g, 21.6 mmol) was dissolved in CH2Cl2 (75 mL) and to the resultant solution was added TBTU (7.29 g, 22.7 mmol). The mixture was stirred at RT for 15 min and then methylamine (11.9 mL of 2M THF solution, 23.8 mmol) and DIPEA (11.2 g, 86.5 mmol) were added. The reaction mixture was stirred at room temperature for 3 h, subsequently diluted with CH2Cl2 (50 mL) and then washed several times with water. The solvent was removed by evaporation and the residue flash chromatographed on silica gel (heptane-ethyl acetate, 1:1). There was obtained 3.5 g (78%) of 2-(4-fluorophenyl)-N-methylpent-4-enamide as an oil, which shortly after crystallized. 1H NMR (400 MHz, CDCl3): 2.5 (qn, 1H), 2.7 (d, 3H), 2.9 (qn, 1H), 3.4 (t, 1H), 4.9-5.1 (m, 2H), 5.6-5.8 (m, 1H), 6.0-6.2 (b, 1H), 7.0 (m, 2H), 7.3 (m, 2H).

reactant | 2-(4-Fluorophenyl)pent-4-enoic acid | 21.6 mmol, 4.20 g | FC1=CC=C(C=C1)C(C(=O)O)CC=C | C11H11FO2
reactant | TBTU | 22.7 mmol, 7.29 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | methylamine | 23.8 mmol, 2M, 11.9 mL | CN | CH5N
reactant | DIPEA | 86.5 mmol, 11.2 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenyl)-N-methylpent-4-enamide | 3.5 g, 78% | FC1=CC=C(C=C1)C(C(=O)NC)CC=C | C12H14FNO
